US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethylpropoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (190 mg) is dissolved in ethanol (5 ml), and thereto is added a 1N-aqueous sodium hydroxide solution (1 ml) and the mixture is stirred at room temperature for 3 hours and 30 minutes. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→93:7) to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethylpropoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (158 mg). The resulting 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethylpropoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (158 mg) is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (237 μl) and concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethyl-propoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid sodium salt (149 mg). MS (m/z): 666 [M−Na]−

reactant | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethylpropoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 158 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)OC(CC)CC)C=C(C1)C(F)(F)F)(F)F | C30H30F9N3O4
reactant | sodium hydroxide | 237 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1-ethyl-propoxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid sodium salt | 149 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)[O-])CC2=C(C=CC(=C2)C(F)(F)F)OC(CC)CC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H30F9N3O4.Na/c1-3-23(4-2)46-25-8-7-20(28(31,32)33)12-19(25)17-42(27-40-14-24(15-41-27)45-9-5-6-26(43)44)16-18-10-21(29(34,35)36)13-22(11-18)30(37,38)39;/h7-8,10-15,23H,3-6,9,16-17H2,1-2H3,(H,43,44);/q;+1/p-1
